US08686018B2
ER-886046
Example 21 was prepared using 3-(difluoromethyl)-1-methyl-5-(3-(trifluoromethyl)phenoxy)-1H-pyrazole-4-carboxylic acid and (S)-methyl 4-(1-aminoethyl)benzoate hydrochloride in a manner similar to the Example 4 above.

reactant | 3-(difluoromethyl)-1-methyl-5-(3-(trifluoromethyl)phenoxy)-1H-pyrazole-4-carboxylic acid | FC(C1=NN(C(=C1C(=O)O)OC1=CC(=CC=C1)C(F)(F)F)C)F | C13H9F5N2O3
reactant | (S)-methyl 4-(1-aminoethyl)benzoate hydrochloride | Cl.N[C@@H](C)C1=CC=C(C(=O)OC)C=C1
product | ER-886046 | C[C@@H](C1=CC=C(C=C1)C(=O)O)NC(=O)C2=C(N(N=C2C(F)F)C)OC3=CC=CC(=C3)C(F)(F)F | C22H18F5N3O4
